Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
aspirin / codeine / doxycycline / ibuprofen / magnesium / 
methadone / morphine / Nitro-Dur / prednisone / terbutaline / 
NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / topiramate / 
tramadol / acetaminophen / fentanyl / vicodan / Neurontin
 
Attending: ___.
 
Chief Complaint:
Acute on chronic back ___ and lower extremity ___ and weakness
 
Major Surgical or Invasive Procedure:
L5-S1 LAMI DISCECTOMY 

 
History of Present Illness:
___ female with history of chronic back ___ L5-S1 
discectomy ___, right knee sarcoma ___ CRT, DVT ___ IVC 
filter (removed ___, G6PD deficiency who presents as a 
transfer from ___ for back ___.

The patient presented to BID-P ED on ___ for multiple 
complaints. She had apparently complained of chest ___ for 
several weeks, worsening low back ___, chronic left lower 
extremity weakness/numbness, and new urinary incontinence.

She was transferred to ___ ED for further evaluation. She 
underwent MRI C/T/L scan that showed no cord signal abnormality 
or cord compression. 

Here she was given IV vancomycin for presumed cellulitis of legs 
She did get IV CTX for presumed UTI at BID-P ED as well. SHe got 
dilaudid, ativan and was admitted to the floor for ___ control.

Per Medicine team mgmt, on the floor, the patient denied any 
chest ___, dyspnea, fever/chills, abdominal ___, nausea, 
vomiting, or diarrhea.

She did report chronic but worsening low back ___ radiating 
into back of entire left leg and worsening numbness/tingling in 
the entire left leg. She says she had falls (uses a cane to 
walk) related to worsening symptoms over the past few weeks, but 
no head strike or loss of consciousness, she always fell into 
seated position SHe reports new urge urinary incontinence in 
last several days.

BID-P ED: At ___, PVR was <20 cc and troponin was 
normal.
UA was c/f UTI and she was given ceftriaxone. 

___ ED: dilaudid, Ativan, IV vancomycin for presumed leg
cellulitis"

She persisted to have ___ leg ___ and ___ and Medicine 
team consulted Ortho spine for consideration of lumbar 
decompression for lumbar stenosis. 
 
Past Medical History:
DDD with L5S1 disc herniation and radiculopathy/foot drop ___
hemilami/discectomy ___ Dr. ___ DVT in setting of pregnancy ___ IVC filter (removed ___ 
morbid obesity, BMI 40+
HTN
Neuropathy
ovarian cyst

___ cholecystectomy
___ tubal ligation
___ microdiscecttomy
___ knee scopes x 7
extensive allergies listed

 
Social History:
___
Family History:
Mother with MI at ___ died of a heart attack at ___
Diabetes
 
Physical Exam:
Admission Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
PSYCH: pleasant, appropriate affect
NEUROLOGIC:
MENTATION: alert and cooperative. Oriented to person and place
and time.
___ strength left hip and knee extension/flexion. Has left foot
drop (chronic). Painful to light touch in entire left lower
extremity.

Discharge Exam:
Last 24h:NAE's overnight. She reports some legs spasm this
morning and is agreeable to trying the flexeril. ___ strength 
and
___ remains improved except for ___ weakness. ___
controlled improved on Q3H dosing. She is tolerating the
decreased IV dilaudid prn dosing well. Continues to have very 
low
grade fevers. UA/Cx and CXR negative for any infectious source.
HVAC removed this am. Prevena removed this morning. 
   
PE: 
VS  99.6 PO 116 / 78 R Lying 91 18 93 Ra 

NAD, A&Ox4
nl resp effort
RRR
Incision c/d/I. well approximated with sutures intact. No
erythema noted. Scant sanguinous drainage noted. Prevena and 
HVAC
removed and dry gauze dressing applied. 
 
Sensory:
UE 
       C5         C6           C7        C8           T1
     (lat arm)  (thumb)     (mid fing) (sm finger)  (med arm)
R     SILT       SILT        SILT        SILT         SILT
L     SILT       SILT        SILT        SILT         SILT

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
  Delt Bic Tri WrE FFl FE IO  IP  glut Quad Ham TA ___ 
L  5    ___   ___   5   5    5    5   4    4      0
R  5    ___   ___   5   5    5    5   5    5      5

             
Babinski:  Downgoing
Clonus: No beats

Labs:
___: WBC: 16.8*
___: HGB: 11.4
___: HCT: 35.5
___: Plt Count: 263
___: Neuts%: 64.3
___: Na: 136 (New reference range as of ___: K: 4.0 (New reference range as of ___: Cl: 96
___: CO2: 24
___: Glucose: 146* (If fasting, 70-100 normal, >125
provisional diabetes)
___: BUN: 6
___: Creat: 0.8
___: ___: 12.9*
___: INR: 1.2*
___: PTT: 26.0

Imaging:  
CXR
IMPRESSION:  
No acute cardiopulmonary process.  No focal consolidation. 

A/P:
A/P:
___ is a ___ y/o female long standing with low back nd
left low extremity ___ that has left her essentially bed 
ridden.
This ___ began ~ 3 months ago and has gotten progressively
worse. Of note, patient underwent previous L5-S1 microdiscetomy
by Dr. ___ in ___. She has had a left foot drop since that
time. She is now ___ L5-S1 LAMI DISCECTOMY on ___ with Dr.
___. Post op course is complicated by uncontrolled surgical
site ___ which is significantly improved this morning. CPS
continues to follow for ___ control.She has responded well to
Q3H dosing and requiring less IV prn Dilaudid. We will start prn
flexeril this morning for her muscle spasms and stop the IV
dilaudid this morning in efforts to get her discharged to REHAB.
___ cleared her for REHAB and Prevena and HVAC were removed 
today.

 
Activity: as tolerated, no lifting, twisting or bending, ___
consult
Bracing: none
Anticoag: ___ pneumoboots, encourage OOB, SC Heparin TID
Abx: ancef x24 h post op done
Analgesia: oxycodone po, prn flexeril
Medications: home medications
Imaging: none
Labs: AM CBC/BMP
FEN: Regular Diet, MIVF
Drains: removed ___
Foley: removed, voiding
Dressing change: dry dressing placed today ___
Dispo: ___ control on PO meds, ___ clearance
Follow-up: in Spine Clinic in 2 weeks 
Follow-up: Follow up with CPS as outpatient. 

___:
98.9
PO 96 / 65
L Lying 88 18 95 Ra 

NAD, A&Ox4
nl resp effort
RRR

incision well approximated, no marginal e/e/e
  
Sensory:

___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:

___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      5       5       5         4      3      5         4+

 
Pertinent Results:
ADMISSION LABS:
___ 08:00PM BLOOD WBC-10.8* RBC-4.65 Hgb-12.0 Hct-38.5 
MCV-83 MCH-25.8* MCHC-31.2* RDW-14.4 RDWSD-43.0 Plt ___
___ 08:00PM BLOOD Glucose-99 UreaN-8 Creat-0.9 Na-141 K-4.4 
Cl-103 HCO3-23 AnGap-15
___ 05:52AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.0

MICRO:
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

IMAGING:
CTA Chest (___):
IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Marked enlargement of the multinodular thyroid gland causing 
mass effect on
the trachea.  Thyroid ultrasound is recommended, if not already 
performed
elsewhere.

MRI spine:
-Degenerative changes of the lumbar spine most marked at the 
L5-S1 level where
there is a large central and left paracentral disc protrusion 
which displaces
the left S1 nerve root posteriorly as well as causing moderate 
to severe
narrowing of the left neural foramina.
-No vertebral body metastatic lesions.  No acute fractures.
-No epidural or paraspinal collections.
-Degenerative changes of the cervical spine but no findings to 
suggest
compromise of the cervical spinal cord. No high-grade neural 
foraminal
stenosis.
-No compromise of the thoracic cord in the thoracic spinal 
canal.
-Small nonenhancing cystic lesion and anterior to the T5 
vertebral body is
unchanged compared to prior exam done ___ and most likely 
represents a
foregut duplication cyst
-Enlarged multinodular thyroid gland displaces the trachea to 
the right-side
and evaluation on a non urgent basis with thyroid ultrasound may 
be performed
if clinically indicated.
-Trace left-sided pleural effusion.

___:
IMPRESSION: 
Slightly limited exam as above due to patient body habitus.  
Within this
limitation, no evidence of deep venous thrombosis in the left 
lower extremity
veins.

Thyroid US:
IMPRESSION: 
There is an enlarged thyroid goiter.  A large partially cystic, 
partially
solid nodule is seen within both thyroid lobes. These nodules 
would be
amenable to fine needle aspiration biopsy on a non-emergent 
basis.

DISCHARGE LABS:
***
___ 06:00AM BLOOD WBC-16.8* RBC-4.30 Hgb-11.4 Hct-35.5 
MCV-83 MCH-26.5 MCHC-32.1 RDW-14.7 RDWSD-43.8 Plt ___
___ 01:00PM BLOOD WBC-9.4 RBC-4.48 Hgb-11.7 Hct-37.2 MCV-83 
MCH-26.1 MCHC-31.5* RDW-14.5 RDWSD-43.8 Plt ___
___ 07:33AM BLOOD WBC-8.8 RBC-4.83 Hgb-12.7 Hct-40.6 MCV-84 
MCH-26.3 MCHC-31.3* RDW-14.3 RDWSD-43.8 Plt ___
___ 08:00PM BLOOD Neuts-64.3 ___ Monos-5.3 Eos-1.1 
Baso-0.5 Im ___ AbsNeut-6.94* AbsLymp-3.03 AbsMono-0.57 
AbsEos-0.12 AbsBaso-0.05
___ 06:00AM BLOOD Plt ___
___ 01:00PM BLOOD Plt ___
___ 06:40AM BLOOD ___ PTT-26.0 ___
___ 07:33AM BLOOD Plt ___
___ 05:52AM BLOOD Plt ___
___ 08:25AM BLOOD Plt ___
___ 08:00PM BLOOD Plt ___
___ 06:00AM BLOOD Glucose-146* UreaN-6 Creat-0.8 Na-136 
K-4.0 Cl-96 HCO3-24 AnGap-16
___ 06:40AM BLOOD Glucose-121* UreaN-9 Creat-0.9 Na-137 
K-4.6 Cl-101 HCO3-24 AnGap-12
___ 05:52AM BLOOD Glucose-122* UreaN-9 Creat-0.9 Na-139 
K-4.5 Cl-101 HCO3-24 AnGap-14
___ 06:00AM BLOOD Calcium-9.0 Phos-3.1 Mg-1.6
___ 06:40AM BLOOD Calcium-9.3 Phos-3.8 Mg-1.8
___ 05:52AM BLOOD Calcium-9.1 Phos-4.1 Mg-2.0
___ 08:25AM BLOOD TSH-5.3*
___ 08:25AM BLOOD Free T4-1.1
___ 08:25AM BLOOD CRP-8.8*
 
Brief Hospital Course:
SUMMARY/ASSESSMENT:   
___ female with history of chronic back ___ L5-S1
discectomy ___, right knee sarcoma ___ CRT, DVT ___ IVC 
filter
(removed ___, G6PD deficiency who presents as a transfer 
from
___ for back ___. She initially presented to the 
Medicine team for ___ control. Ortho spine was consulted for 
her persistent ___ leg ___ and weakness. She is now ___ L5-S1 
LAMI DISCECTOMY on ___ with Dr. ___.

ACUTE/ACTIVE PROBLEMS:
#Acute on chronic back ___ with sciatica left leg
-She had MRI C/T/L scan. No cord signal abnormality or
compression. A 1.6 x 0.6 x 1.3 cm T2 hyperintense/T1 hypointense
nonenhancing cystic lesion anterior to the T5 vertebral body, to
the right of midline is not significantly changed compared to 
the
prior exam in ___. A similar appearing pathology proven
bronchogenic cyst anterior to the T3 vertebral body on the prior
exam has since been excised. There is a large left paracentral
disc bulge at L5-S1 causes severe left neural foraminal 
narrowing
at this level. She was seen by neurology who recommended spine
surgery evaluation of the disc bulge as the foraminal narrowing
is probably causing her nerve root ___. THe patient initially
wanted to follow up with Dr. ___ spine surgeon who did
her discectomy last year) at ___ after discharge, but given
per persistent ___ she would like to see someone here.  
- Chronic ___ consult
- Patient reports she has adverse reactions to the following and
that we should not use:
lidocaine patch (wheeze)
fentanyl patch (wheezes)
methadone (rash)
lyrica (rash)
gabapentin (swelling)
tramadol (weight gain)
toradol (rash)
Tylenol (welts)
amitriptyline (rash)
-She says she tolerates IV or PO dilaudid (but does not want PO
dilaudid on discharge, she says she's afraid of respiratory
effects), oxycodone, diazepam, flexeril. We will use these 
agents
-Spine surgery consult - plan on laminectomy

# Vulvovaginitis
Symptoms are most consistent with ___ although she does not
have any discharge.
 - Start miconazole cream applied to the labia; continue
miconazole vaginal suppositories
 - ___ fluconazole 150 mg PO x1

# Concern for UTI: On presentation concern for UTI. She has a
Urine cx with mixed flora. ___ grew Lactobacillus and UA
at ___ grew mixed bacteria. Treated with CTX but unlikely to 
be
UTI. Received 2 days of CTX total prior to this being
discontinued. 

# History of DVT/concern for cellulitis
-Had negative ___ DVT US
-Had negative CTA chest for PE
-Also, there is no evidence of cellulitis on exam. The IV 
vancomycin started in the ED was not continued.

#Incidental large multinodular goiter on CTA chest. Ultrasound
with multinodular thyroid amenable to biopsy if necessary. 
-Check TSH (5.3)
-Needs outpatient US done and endocrinology follow up
-Pushes on trachea but clinically no evidence of respiratory
effects or dysphagia

___ is a ___ y/o female long standing with low back and
left low extremity ___ that has left her essentially bed 
ridden.
This ___ began ~ 3 months ago and has gotten progressively
worse. Of note, patient underwent previous L5-S1 microdiscetomy
by Dr. ___ in ___. She has had a left foot drop since that
time. She is now ___ L5-S1 LAMI DISCECTOMY on ___ with Dr.
___. Post op course is complicated by uncontrolled surgical
site ___ which is significantly improved this morning. CPS
continues to follow for ___ control.She has responded well to
Q3H dosing and requiring and started prn flexeril for spasm. We 
were able to transition her off iv dilaudid by ___. ___ cleared 
her for REHAB and Prevena and HVAC were removed on ___. She did 
not want to go to rehab, however, and was re-evaluated by ___ on 
___. Ultimately they recommended she return home with services. 

She was discharged on ___ without incident. 
 
Activity: as tolerated, no lifting, twisting or bending, ___
consult
Bracing: none
Anticoag: ___ pneumoboots, encourage ambulation
Abx: ancef x24 h post op done
Analgesia: oxycodone po, prn flexeril
Medications: home medications
Imaging: none
Labs: AM CBC/BMP
FEN: Regular Diet, MIVF
Drains: removed ___
Foley: removed, voiding
Dressing change: dry dressing placed today ___
Dispo: ___ control on PO meds, ___ clearance
Follow-up: in Spine Clinic in 2 weeks 
Follow-up: Follow up with CPS as outpatient. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxyCODONE (Immediate Release) 5 mg PO BID:PRN ___ - Moderate 


 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY  
2.  Cyclobenzaprine ___ mg PO BID:PRN spasm 
may cause drowsiness  
3.  Docusate Sodium 100 mg PO BID  
4.  Heparin 5000 UNIT SC TID  
5.  OxyCODONE (Immediate Release) 20 mg PO Q3H ___ 
Please wean as patient tolerates.   

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
lumbar stenosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Lumbar Decompression Without Fusion

You have undergone the following operation: Lumbar Decompression 
Without Fusion

Immediately after the operation:

•                Activity:You should not lift anything greater 
than 10 lbs for 2 weeks.You will be more comfortable if you do 
not sit or stand more than~45 minutes without moving around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet:Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace, this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or lying in 
bed.

•                Wound Care: Keep the incision covered with a 
dry dressing until your follow up appointment. Do not soak the 
incision in a bath or pool.If the incision starts draining at 
anytime after surgery,do not get the incision wet.Cover it with 
a sterile dressing and call the office.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your ___ allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for ___ medications for 
90 days from the date of surgery.

•                Follow up:            

               Please Call the office and make an appointment 
for 2 weeks after the day of your operation if this has not been 
done already.

               At the 2-week visit we will check your incision, 
take baseline X-rays and answer any questions.We may at that 
time start physical therapy.

                We will then see you at 6 weeks from the day of 
the operation and at that time release you to full activity.

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Treatments Frequency:
Keep the incision covered with a dry dressing until your follow 
up appointment. Do not soak the incision in a bath or pool.If 
the incision starts draining at anytime after surgery,do not get 
the incision wet.Cover it with a sterile dressing and call the 
office.

 
Followup Instructions:
___